US04240820
26.2 g (0.2 mole) of ethoxyacetyl chloride were added dropwise to a solution of 32.8 g (0.2 mole) of 2-amino-3-cyano-4-tert.-butyl-furan in 200 ml of dimethylformamide at room temperature. After the moderately exothermic reaction had subsided (rise in temperature from 23° C. to 38°), the reaction mixture was poured into ice-water. The solid product thereby obtained was filtered off and recrystallized, in the moist state, from a little methanol. 39.3 g of 2-ethoxyacetylamino-3-cyano-4-tert.-butyl-furan of melting point 98° C. were obtained in this manner.

reactant | ethoxyacetyl chloride | 0.2 mole, 26.2 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 2-amino-3-cyano-4-tert.-butyl-furan | 0.2 mole, 32.8 g | NC=1OC=C(C1C#N)C(C)(C)C | C9H12N2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-ethoxyacetylamino-3-cyano-4-tert.-butyl-furan | 39.3 g | C(C)OCC(=O)NC=1OC=C(C1C#N)C(C)(C)C | C13H18N2O3
